US07442794B2
5-Aminoquinolin-2(1H)-one
4.5 g of 5-nitroquinolin-2(1H)-one (Chem. Pharm. Bull. (1981), 29, pp. 651-56) is hydrogenated in 200 ml of ethyl acetate and 500 ml of methanol in the presence of 45 mg of palladium on activated carbon as a catalyst under normal pressure with hydrogen until the reaction is completed. The catalyst is removed by filtration through diatomaceous earth, and the reaction solution is concentrated by evaporation in a vacuum. 3.8 g of the title compound is obtained as a yellow solid.

reactant | 5-nitroquinolin-2(1H)-one | 4.5 g | [N+](=O)([O-])C1=C2C=CC(NC2=CC=C1)=O | C9H6N2O3
reactant | methanol | 500 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 45 mg | [Pd] | Pd
product | 5-Aminoquinolin-2(1H)-one | 3.8 g | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
